US06063541
STEP 3: Synthesis of 4-((Chloroacetyl)amino)benzensulfonyl chloride, (Intermediate 3)
Chloroacetanilide (4.53 g) is slowly added to chlorosulfonic acid (7.5 mL) at a temperature of 5° C. The solution is heated to 65° C. and thionyl chloride (0.78 mL) is added. After 10 minutes of gas evolution the reaction was cooled to room temperature. The mixture is added to ice/water (2.14 g/3.2 mL) and stirred for 30 minutes. The product was filtered, washed with water (60 mL), placed under vacuum at 50° C. and dried to a constant weight. The product is a white powder, yield: 4.81 g (67%).

reactant | Chloroacetanilide | 4.53 g | ClCC(=O)NC1=CC=CC=C1 | C8H8ClNO
reactant | chlorosulfonic acid | 7.5 mL | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | 0.78 mL | S(=O)(Cl)Cl | Cl2OS
product | 4-((Chloroacetyl)amino)benzensulfonyl chloride | ClCC(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H7Cl2NO3S
